US05834459
In a like manner as Example 1, 4-Chloro-10,11-dihydro-dibenz[b,f][1,4]oxazepine-11-one (2.46 g, 10.0 mmol) was reacted with homopiperazine (7.41 g, 74.0 mmol) in the presence of titanium tetrachloride (2.09 g, 11.0 mmol) in toluene (55.0 mL) and anisole (2.00 mL) to produce 4-Chloro-11-(1-homopiperazinyl)dibenz[b,f][1,4]oxazepine; viscous oil; yield, 0.92 g (28%). This crude product (0.26 g, 0.79 mmol) was reacted with 1-bromohexane (0.13 mL, 0.16 g, 0.95 mmol) in the presence of sodium hydride (0.044 mg, 60% in oil, 1.11 mmol) in DMF (10.0 mL) to produce 4-Chloro-11-(4-hexylhomopiperazinyl)dibenz[b,f][1,4]oxazepine; viscous oil; yield, 0.17 g (52%).

reactant | 4-Chloro-10,11-dihydro-dibenz[b,f][1,4]oxazepine-11-one | 10.0 mmol, 2.46 g | ClC1=CC=CC=2C(NC3=C(OC21)C=CC=C3)=O | C13H8ClNO2
reactant | homopiperazine | 74.0 mmol, 7.41 g | N1CCNCCC1 | C5H12N2
solvent | toluene | 55.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | anisole | 2.00 mL | C1(=CC=CC=C1)OC | C7H8O
catalyst | titanium tetrachloride | 11.0 mmol, 2.09 g | [Ti](Cl)(Cl)(Cl)Cl
product | 4-Chloro-11-(1-homopiperazinyl)dibenz[b,f][1,4]oxazepine | ClC1=CC=CC=2C(=NC3=C(OC21)C=CC=C3)N3CCNCCC3 | C18H18ClN3O
